US08084448B2
A. N—[(R)-2-(tert-Butyldimethylsilanyloxy)-1-(2-iodophenyl)-ethyl]-2-iodobenzamide
To a solution of 2-iodobenzoic acid (0.66 g, 2.65 mmol) in THF (90 mL) is added HOBt (0.71 g, 5.3 mmol). After the mixture is stirred at RT for 15 min, EDCl (1.0 g, 5.3 mmol) is added followed by triethylamine (1.1 mL). The mixture is stirred at RT for 20 min then (R)-2-(tert-butyldimethylsilanyloxy)-1-(2-iodophenyl)-ethylamine (Org. Lett. 6, 513 (2004)) (1.0 g, 2.65 mmol) is added and stirring is continued for 18 h. The solvent is removed under reduced pressure and water is added to the residue. The mixture is extracted with EtOAc and the organic phase is washed with brine and dried over magnesium sulfate. The solvent is removed under reduced pressure and the residue purified by flash chromatography using a gradient of 0-60% EtOAc/hexane as eluent to give the title compound as a yellow solid.

reactant | 2-iodobenzoic acid | 2.65 mmol, 0.66 g | IC1=C(C(=O)O)C=CC=C1 | C7H5IO2
reactant | HOBt | 5.3 mmol, 0.71 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCl | 5.3 mmol, 1.0 g | CCN=C=NCCCN(C)C.Cl
reactant | (R)-2-(tert-butyldimethylsilanyloxy)-1-(2-iodophenyl)-ethylamine | 2.65 mmol, 1.0 g | [Si](C)(C)(C(C)(C)C)OC[C@@H](C1=C(C=CC=C1)I)N | C14H24INOSi
solvent | THF | 90 mL | C1CCOC1 | C4H8O
solvent | triethylamine | 1.1 mL | C(C)N(CC)CC | C6H15N
product | N—[(R)-2-(tert-Butyldimethylsilanyloxy)-1-(2-iodophenyl)-ethyl]-2-iodobenzamide | [Si](C)(C)(C(C)(C)C)OC[C@@H](C1=C(C=CC=C1)I)NC(C1=C(C=CC=C1)I)=O | C21H27I2NO2Si
